US08686002B2
1. (2-Chloro-6-methoxyquinolin-3-yl)(2-methoxyphenyl)methanol
2-Chloro-6-methoxyquinoline-3-carbaldehyde (2.66 g, 12 mmol) was dissolved in THF (40 mL) under nitrogen and cooled to −78° C. At this temperature, a solution of 2-methoxyphenyl magnesium bromide (1M, 12.1 mL, 13.32 mmol) in THF was added by drops. Then the mixture was heated slowly to room temperature. The batch was mixed with water and extracted several times with ethyl acetate. The combined organic phases were washed with water until neutral, dried (sodium sulfate) and concentrated. Yield: 3.9 g (11.8 mmol, 99%).

reactant | 2-Chloro-6-methoxyquinoline-3-carbaldehyde | 12 mmol, 2.66 g | ClC1=NC2=CC=C(C=C2C=C1C=O)OC | C11H8ClNO2
reactant | 2-methoxyphenyl magnesium bromide | 13.32 mmol, 1M, 12.1 mL | COC1=C(C=CC=C1)[Mg]Br
reactant | water | O | H2O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | (2-Chloro-6-methoxyquinolin-3-yl)(2-methoxyphenyl)methanol | ClC1=NC2=CC=C(C=C2C=C1C(O)C1=C(C=CC=C1)OC)OC | C18H16ClNO3
